US04190659
To a suspension of 6 g. of quinoline-2,4-dione in 50 ml. of dimethylacetamide is added 1.6 g. of sodium hydride (56% in mineral oil, pentane washed). The mixture is then stirred at room temperature for 90 minutes and 6 g. of ethyliodide is added and the resulting mixture is heated briefly at 35° C. followed by stirring at ambient temperature for 18 hours. The precipitate which forms is recovered by filtering and the filtrate is poured into 200 ml. of water and the resulting precipitate also recovered by filtering and dried. The two filter cakes above obtained are combined and crystallized from methanol to obtain 4-ethoxyquinolin-2(1H)-one, m.p. 223°-226° C.

reactant | quinoline-2,4-dione | N1C(CC(C2=CC=CC=C12)=O)=O | C9H7NO2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyliodide | C(C)I | C2H5I
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 4-ethoxyquinolin-2(1H)-one | C(C)OC1=CC(NC2=CC=CC=C12)=O | C11H11NO2
